US04146715
A mixture of 2.20 g (6.12 mmol) of 9-(2-benzoyloxyethoxymethyl)-2-methylthioadenine and 100 ml of 40% aqueous methylamine was heated on a steam bath with occasional agitation for one hour. The solution was cooled and spin evaporated in vacuo. The resultant oil was leached with five 40 ml portions of hot ether to give a solid; yield, 1.31 g (84%), m.p. 174°-176°. Recrystallization from ethanol gave the analytical sample of 9-(2-hydroxyethoxymethyl)-2-methylthioadenine; λmax (ε × 10-3) (10% EtOH in solvent) pH 1-270 (16.7), 291 (sh) (11.9), H2O and pH 13-276 (15.2) nm; nmr (DMSO-d6), 2.49 (3H, S), 3.55 (4H, S), 4.65 (1H, br S), 5.55 (2H, S), 7.31 (2H, S), 8.15 (1H, S) δ.

reactant | 9-(2-benzoyloxyethoxymethyl)-2-methylthioadenine | 6.12 mmol, 2.20 g | C(C1=CC=CC=C1)(=O)OCCOCN1C2=NC(=NC(=C2N=C1)N)SC | C16H17N5O3S
solvent | methylamine | 100 ml | CN | CH5N
product | 9-(2-hydroxyethoxymethyl)-2-methylthioadenine | OCCOCN1C2=NC(=NC(=C2N=C1)N)SC | C9H13N5O2S
